US04433152
A mixture of 2.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride and 1.29 g of p-acetaminophenol was dissolved in 20 ml of dry pyridine. To the solution was added with stirring and ice-cooling 1.75 g of dicyclohexylcarbodiimide, and the resulting mixture was stirred overnight at room temperature. The reaction mixture was filtered to give crystals which were then washed with ethyl acetate and further with ether and dried. The crystals were refluxed with 600 ml of dichloromethane, and the resulting mixture was filtered to give an insoluble substance. The substance was washed with dichloromethane and recrystallized from methanol-ethyl acetate to obtain 1.5 g (yield: 48.4%) of p-acetaminophenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 258° to 261° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 2.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | p-acetaminophenol | 1.29 g | N(C(=O)C)C1=CC=C(C=C1)O | C8H9NO2
reactant | dicyclohexylcarbodiimide | 1.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-acetaminophenyl 1-amidino-4-piperidinepropionate hydrochloride | 1.5 g, yield: 48.4% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)NC(=O)C | InChI=1S/C17H24N4O3.ClH/c1-12(22)20-14-3-5-15(6-4-14)24-16(23)7-2-13-8-10-21(11-9-13)17(18)19;/h3-6,13H,2,7-11H2,1H3,(H3,18,19)(H,20,22);1H
